US09315475B2
Step 1: (2-Fluoro-6-nitrobenzyl)(triphenyl)phosphonium bromide
Triphenylphosphine (31.2 g, 119 mmol) was added to a solution of 2-(bromomethyl)-1-fluoro-3-nitrobenzene (27.9 g, 119 mmol) in Acetonitrile (445 mL) (degassed with nitrogen) and the reaction stirred at ambient temperature for 10 min then heated to 85° C. for 2 hrs. The solvent was evaporated under reduced pressure to afford the title compound (59.1 g, 119 mmol, 100% yield) as a yellow powder, MS (ESI): m/z=416.2 (MH+); 100% pure by LCMS.

reactant | Triphenylphosphine | 119 mmol, 31.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(bromomethyl)-1-fluoro-3-nitrobenzene | 119 mmol, 27.9 g | BrCC1=C(C=CC=C1[N+](=O)[O-])F | C7H5BrFNO2
solvent | Acetonitrile | 445 mL | C(C)#N | C2H3N
product | (2-Fluoro-6-nitrobenzyl)(triphenyl)phosphonium bromide | 119 mmol, 59.1 g, 100% yield | [Br-].FC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC=C1)[N+](=O)[O-] | InChI=1S/C25H20FNO2P.BrH/c26-24-17-10-18-25(27(28)29)23(24)19-30(20-11-4-1-5-12-20,21-13-6-2-7-14-21)22-15-8-3-9-16-22;/h1-18H,19H2;1H/q+1;/p-1
